US08071625B2
To a solution of (S)-(1-(2-(tert-butoxycarbonyl)amino-3-hydroxypropanoyl)-4-(2-chlorobenzylcarbamoyl)piperidin-4-yl)methyl 4-(trifluoromethyl)phenylcarbamate (145 mg, 0.22 mmol) in CH3OH (1 mL) was added 4M HCl in dioxane (200 μL, 0.8 mmol, 3.6 equiv.), which was stirred for 2 h. The reaction mixture was concentrated to dryness by co-evaporating with toluene to give (S)-(1-(2-amino-3-hydroxypropanoyl)-4-(2-chlorobenzylcarbamoyl)piperidin-4-yl)methyl 4-(trifluoromethyl)phenylcarbamate (130 mg, quant.). LRMS (M+H+) m/z 557.1.

reactant | (S)-(1-(2-(tert-butoxycarbonyl)amino-3-hydroxypropanoyl)-4-(2-chlorobenzylcarbamoyl)piperidin-4-yl)methyl 4-(trifluoromethyl)phenylcarbamate | 0.22 mmol, 145 mg | FC(C1=CC=C(C=C1)NC(OCC1(CCN(CC1)C([C@H](CO)NC(=O)OC(C)(C)C)=O)C(NCC1=C(C=CC=C1)Cl)=O)=O)(F)F | C30H36ClF3N4O7
reactant | HCl | 4M | Cl | ClH
reactant | dioxane | 0.8 mmol, 200 μL, 3.6 equiv. | O1CCOCC1 | C4H8O2
solvent | CH3OH | 1 mL | CO | CH4O
product | (S)-(1-(2-amino-3-hydroxypropanoyl)-4-(2-chlorobenzylcarbamoyl)piperidin-4-yl)methyl 4-(trifluoromethyl)phenylcarbamate | 130 mg | FC(C1=CC=C(C=C1)NC(OCC1(CCN(CC1)C([C@H](CO)N)=O)C(NCC1=C(C=CC=C1)Cl)=O)=O)(F)F | C25H28ClF3N4O5
